*** Title: "E:\WORCK\LR_2_SH\simulation\five_comb_reg\netlistLR_2_SH_NID.net"
*** Generated by:  Symica
*** © 2009-2014 Symica. All rights reserved. (www.symica.com)
*** Generated for: SymSpice                                     
*** Generated on:  Fri Feb 13 13:27:05 2026                     
*******************************************************************

simulator lang=local


parameters 

V0 vdd! gnd vsource type=dc dc=3.5 
V1 CLK gnd vsource type=pulse val0=0 val1=3.5 delay=3.5e-008 period=4e-008 rise=1e-009 fall=1e-009 width=2e-008 
V2 IN_single gnd vsource type=dc dc=0 
V3 IN_paralel_0 gnd vsource type=dc dc=0 
V4 IN_paralel_1 gnd vsource type=dc dc=0 
V5 IN_paralel_2 gnd vsource type=dc dc=0 
V6 IN_paralel_3 gnd vsource type=dc dc=3.5 
V7 IN_paralel_4 gnd vsource type=dc dc=3.5 
V8 Select gnd vsource type=pulse val0=3.5 val1=0 delay=3.5e-008 period=2.5e-007 rise=1e-009 fall=1e-009 width=3.2e-008 
V9 RST gnd vsource type=pulse val0=3.5 val1=0 period=30 rise=1e-009 fall=1e-009 width=1.5e-008 
I3 CLK n1_4 vdd! RST OUT_para_0 d_trig_tgl 
I1 Select IN_paralel_1 OUT_para_0 n2_4 Multiplexer_1 
I4 CLK n2_4 vdd! RST OUT_para_1 d_trig_tgl 
I2 Select IN_paralel_2 OUT_para_1 n6_4 Multiplexer_1 
I5 CLK n6_4 vdd! RST OUT_para_2 d_trig_tgl 
I7 CLK n8_4 vdd! RST OUT_para_3 d_trig_tgl 
I9 CLK n10_4 vdd! RST Q_single d_trig_tgl 
I6 Select IN_paralel_3 OUT_para_2 n8_4 Multiplexer_1 
I8 Select IN_paralel_4 OUT_para_3 n10_4 Multiplexer_1 
I0 Select IN_paralel_0 IN_single n1_4 Multiplexer_1 

subckt d_trig_tgl CLK D RSTB SETB Q 
M4 n9_4 clka n9_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M5 n9_4 clkb n9_1 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M12 n9_1 n5_4 vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M13 n9_1 SETB vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M14 n9_1 n5_4 n25_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M15 n25_1 SETB gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M16 Q n9_4 vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M17 Q RSTB vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M18 Q n9_4 n29_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M19 n29_1 RSTB gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M20 n31_4 SETB vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M21 n31_4 Q vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M22 n31_4 Q n33_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M23 n33_1 SETB gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M0 clkb CLK vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M1 clkb CLK gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M10 clka clkb vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M11 clka clkb gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M25 n11_4 n9_1 vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M26 n11_4 RSTB n37_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M27 n37_1 n9_1 gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M24 n11_4 RSTB vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M2 n5_4 clkb D gnd nmos_mod1.1 w=2e-006 l=6e-007 
M3 n5_4 clka D vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M8 n31_4 clkb n9_4 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M9 n31_4 clka n9_4 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M7 n11_4 clkb n5_4 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M6 n11_4 clka n5_4 gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends

subckt Multiplexer_1 S A B OUT 
M4 A S OUT vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M6 A n9_2 OUT gnd nmos_mod1.1 w=2e-006 l=6e-007 
M5 B n9_2 OUT vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M7 B S OUT gnd nmos_mod1.1 w=2e-006 l=6e-007 
M8 n9_2 S vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M9 n9_2 S gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends
